US06326368B1
To a solution of 3-bromo-4-[[6-methyl-4-(4-morpholinyl)-1,3,5-triazin-2-yl]oxy]-5-methoxy-a,a-dimethylbenzenemethanol (1.92 g) in 80 mL of benzene, a small amount of p-toluene sulfonic acid was added. The solution was refluxed under azeotropic conditions for 16 hours. Once cooled to room temperature, the solution was washed with saturated NaHCO3 followed by water. The organic phase was dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified on silica gel using a mixture of 1:1 ethyl acetate and hexane to yield 2-[2-bromo-6-methoxy-4-(1-methylethenyl)phenoxy]-4-methyl-6-(4-morpholinyl)-1,3,5-triazine as a colorless compound, mp 63-67° C.

reactant | 3-bromo-4-[[6-methyl-4-(4-morpholinyl)-1,3,5-triazin-2-yl]oxy]-5-methoxy-a,a-dimethylbenzenemethanol | 1.92 g | BrC=1C=C(C=C(C1OC1=NC(=NC(=N1)N1CCOCC1)C)OC)C(O)(C)C | C18H23BrN4O4
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 80 mL | C1=CC=CC=C1 | C6H6
product | 2-[2-bromo-6-methoxy-4-(1-methylethenyl)phenoxy]-4-methyl-6-(4-morpholinyl)-1,3,5-triazine | BrC1=C(OC2=NC(=NC(=N2)C)N2CCOCC2)C(=CC(=C1)C(=C)C)OC | C18H21BrN4O3
